Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness, speech disturbance
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH significant for HTN, HLD who was last known well on
___ at ___ as seen by his caretaker. This morning, she 
went
to his place at 1030AM, and had the building manager buzz her in
(which he normally does). He greeted her at the door, and she
noticed that his speech was slightly off and it looked like his
right side was moving less than usual. He walked to the bathroom
after she gave him his morning medications and oatmeal, and when
he came out, she thought he was limping more on the right and
that his language seemed worse so she called ___. 

 
Past Medical History:
Blindness
HTN
HLD
GERD

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION EXAMINATION
=====================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Dysarthric. Unable to test naming/reading.  Able to follow both
midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  Legally blind. No BTT b/l. Pupils opacified.
Right eye is fake per caretaker. Left exotropia. Eyes fixed and
are not overcome by oculocephalic reflex.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. Mild pronator drift in
RUE

  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5-   5    5    3    2    5   5    5    5   5    5    

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 

Plantar response was mute bilaterally.

-Coordination: No intention tremor. No dysmetria on RAM b/l, but
slower on right, likely in setting of weakness

-Gait: deferred

DISCHARGE EXAMINATION
=====================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty in ___. Language is fluent, moderate
dysarthria, no paraphasic errors, intact comprehension. Able to
follow truncal and appendicular commands.

-Cranial Nerves:
II, III, IV, VI:  Legally blind. No BTT b/l. Pupils opacified.
Right eye is a prosthetic. Left exotropia. Eyes fixed and are 
not
overcome by oculocephalic reflex.
V: Facial sensation intact to light touch.
VII: R side facial droop
VIII: Hearing intact to conversation
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline, palates lift symmetrically

-Motor: Normal bulk and tone throughout. Mild pronator drift in
RUE

  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    4+   3    4+   3    1    1   4+   5    5   5    5    

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS. 

-Reflexes: deferred

-Coordination: toe tapping symmetric and regular 
rhythm/amplitude
bilaterally

-Gait: deferred

 
Pertinent Results:
___ 07:43AM BLOOD WBC-3.6* RBC-5.88 Hgb-17.1 Hct-52.8* 
MCV-90 MCH-29.1 MCHC-32.4 RDW-14.1 RDWSD-46.5* Plt ___
___ 09:11PM BLOOD ___ PTT-33.7 ___
___ 07:43AM BLOOD Glucose-81 UreaN-14 Creat-0.9 Na-141 
K-4.7 Cl-100 HCO3-26 AnGap-15
___ 07:43AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.3
___ 09:11PM BLOOD ALT-11 AST-30 CK(CPK)-214 AlkPhos-51 
TotBili-0.4
___ 02:25PM BLOOD cTropnT-<0.01
___ 09:11PM BLOOD %HbA1c-5.6 eAG-114
___ 09:11PM BLOOD Triglyc-71 HDL-33* CHOL/HD-3.9 LDLcalc-82
___ 09:11PM BLOOD TSH-1.6
___ 02:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:11PM URINE Color-Yellow Appear-CLEAR Sp ___
___ 03:11PM URINE Blood-NEG Nitrite-POS* Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.5 
Leuks-MOD*
___ 03:11PM URINE RBC-0 WBC-9* Bacteri-MOD* Yeast-NONE 
Epi-0
___ 03:11PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG fentnyl-NEG

___ 11:21 AM CTA HEAD AND CTA NECK; CT BRAIN PERFUSION 
1. There is no large vascular territory infarction, hemorrhage, 
or mass. There are no focal areas of increased mean transit time 
with corresponding decreased cerebral blood volume to suggest 
infarct in territory corresponding to the patient's symptoms. 
2. Moderate atherosclerotic calcification of the carotid siphons 
with 
associated moderate stenosis of the bilateral ophthalmic 
segments of the 
internal carotid arteries. 10% stenosis of the left internal 
carotid artery by NASCET criteria. 
3. Incidental note of azygos left anterior cerebral artery. 
4. Ptisis bulbi on the right along with a right orbital 
prosthesis. 
5. Prominent sulci in keeping with global atrophy, as well as 
white matter 
changes consistent with chronic microangiopathic disease. 

___ 10:06 ___ MR HEAD W/O CONTRAST 
1. Acute/subacute infarct in the left globus pallidus. 
2. There is no evidence of hemorrhagic transformation. 
3. White matter changes of chronic microangiopathy with diffuse 
age-related involutional changes. 

___ 07:30 TTE
Suboptimal image quality. Normal left ventricular wall thickness 
with normal cavity size and systolic function. Mildly dilated 
right ventricle with normal systolic function. Mild aortic 
regurgitation. Indeterminate pulmonary artery systolic pressure.

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of 
complete blindness, hypertension, hyperlipidemia, who presented 
to the hospital after being found down in his apartment for an 
unknown amount of time. He was found to have profound dysarthria 
and right arm plegia. His NIHSS on arrival was 9 mostly due to 
his blindness. He was not a candidate for tPA or thrombectomy 
given his time window. He underwent an MRI which revealed an 
acute stroke in the left internal capsule/thalamus, thought to 
be microvascular in etiology. He was started on aspirin. His 
simvastatin was converted to Atorvastatin 40mg. He was evaluated 
by ___ who recommended discharge to acute rehab. He was also 
evaluated by SLP who recommended a pureed diet with thin liquids 
under 1:1 supervision. He was treated with ceftriaxone for an 
incidentally noted urinary tract infection. He was discharged to 
rehab with neurology follow up. At the time of discharge his 
exam was notable for chronic bilateral blindness, and acute 
changes stemming from his stroke including moderate dysarthria, 
right arm upper motor neuron pattern hemiparesis, and very mild 
right leg upper motor neuron pattern hemiparesis. 

TRANSITIONAL ISSUES
===================
1. Ongoing SLP evaluation and management of dysphagia, 
dysarthria.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 82) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. NIFEdipine (Extended Release) 90 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Tamsulosin 0.4 mg PO QHS 
8. Vesicare (solifenacin) 10 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Cetirizine 10 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
6.  NIFEdipine (Extended Release) 90 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Vesicare (solifenacin) 10 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left capsular infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of difficulty speaking and 
right arm weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: age, high cholesterol, high 
blood pressure

We are changing your medications as follows:
STOP Simvastatin
START Atorvastatin
START Aspirin

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___